US04818761
(a) Preparation of N-isoamyl-o-phenylenediamine
Under cooling, o-nitroacetoanilide (7.2 g, 40 mmol), acetone (28 ml) and powdered potassium hydroxide (2.2 g, 39 mmol) were mixed, to which 1-bromo-3-methylbutane (6.0 g, 40 mmol) was added. After the mixture was refluxed for 5 hours, the precipitate was removed by filtration. The filtrate was concentrated in vacuo and was extracted with chloroform. The occurred oily substance (9.8 g, 39 mmol) was refluxed for concd. hydrochloric acid (39 ml, 390 mmol) for 3 hours. The resultant was extracted with chloroform and concentrated in vacuo to give oily substance (6.4 g, 30.7 mmol), which was added to a mixture of powdered iron (17.1 g, 306 mmol), ethanol (24.5 ml), water (6.2 ml) and concd. hydrochloric acid (0.3 ml, 300 mmol). After the mixture was refluxed for 1.5 hours, the product was treated as in a usual process to obtain the title intermediate.

reactant | o-nitroacetoanilide | 40 mmol, 7.2 g | [N+](=O)([O-])C1=C(NC(C)=O)C=CC=C1 | C8H8N2O3
reactant | potassium hydroxide | 39 mmol, 2.2 g | [OH-].[K+]
reactant | 1-bromo-3-methylbutane | 40 mmol, 6.0 g | BrCCC(C)C | C5H11Br
reactant | hydrochloric acid | 390 mmol, 39 ml | Cl | ClH
reactant | hydrochloric acid | 300 mmol, 0.3 ml | Cl | ClH
catalyst | iron | 306 mmol, 17.1 g | [Fe] | Fe
solvent | water | 6.2 ml | O | H2O
solvent | ethanol | 24.5 ml | C(C)O | C2H6O
solvent | acetone | 28 ml | CC(=O)C | C3H6O
product | N-isoamyl-o-phenylenediamine | C(CC(C)C)NC1=C(C=CC=C1)N | C11H18N2
